US08685974B2
4-[1-sec-butyl-3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridine-N-oxide (6.1 mmol) was stirred in 20 mL of phosphorous oxychloride at 120° C. for 5 h. The solvent was then evaporated and the residue was treated with methanol and evaporated again. The residue was purified by chromatography on silica gel (hepthane:ethyl acetate 5:1 to 3:1) to afford 623 mg of 2-Chloro-4-[1-sec-butyl-3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridine (29% yield).

reactant | 4-[1-sec-butyl-3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridine-N-oxide | 6.1 mmol | C(C)(CC)N1N=C(C(=C1)C1=CC=[N+](C=C1)[O-])C=1SC(=CC1)Cl | C16H16ClN3OS
reactant | phosphorous oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-[1-sec-butyl-3-(5-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridine | 623 mg, 29% yield | ClC1=NC=CC(=C1)C=1C(=NN(C1)C(C)CC)C=1SC(=CC1)Cl | C16H15Cl2N3S
